US04561882
Preparation of ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-formoyloxypentanoate
4 g of ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-hydroxypentanoate in formic acid were heated to 60° C. for 6 hours and to 65° C. for an additional 3 hours (approx. 80% complete reaction) Methylene chloride and H2O were added to the mixture after transferring to a separation funnel. The methylene chloride layer was washed with water, NaHCO3, water and brine, dried over MgSO4 and its volume reduced to 3.8 g. The product was purified by silica gel chromatography (hexane/ethyl acetate) and identified as the above methyl formoyloxypentanoate ester with an overall yield of 60%.

reactant | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-hydroxypentanoate | 4 g | FC(C1=CC=C(OC2=CC=C(OC(C(CC(=O)OCC)O)C)C=C2)C=C1)(F)F | C20H21F3O5
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
reactant | H2O | O | H2O
reactant | formic acid | C(=O)O | CH2O2
product | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-formoyloxypentanoate | yield of 60% | FC(C1=CC=C(OC2=CC=C(OC(C(CC(=O)OCC)OC=O)C)C=C2)C=C1)(F)F | C21H21F3O6
